.subckt pulse_swallow_div VDD VSS clk_in clk_out div_ctrl[0] div_ctrl[1] div_ctrl[2]
+ div_ctrl[3] div_ctrl[4] div_ctrl[5] div_ctrl[6] div_ctrl[7] rst_n
X_83_ _83_/D _88_/RN _38_/I _83_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
X_49_ _50_/A1 _48_/Z _49_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_1
X_66_ _55_/Z _66_/A2 _77_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_1
XPHY_EDGE_ROW_12_Right_12 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_12_44 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xclkbuf_1_1__f_clk_in clkbuf_0_clk_in/Z _82_/CLK VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
X_82_ _82_/D _88_/RN _82_/CLK _82_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
X_65_ _77_/Q _83_/Q _71_/A1 _75_/A1 _66_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai22_1
X_48_ _85_/Q _48_/A2 _87_/Q _84_/Q _48_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or4_1
Xoutput10 _83_/Q clk_out VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XPHY_EDGE_ROW_6_Right_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_12_45 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
X_81_ _81_/D _88_/RN _81_/CLK _81_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
X_64_ _64_/A1 _56_/Z _83_/Q _75_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
X_47_ _84_/D _50_/A3 _85_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__xnor2_1
XPHY_EDGE_ROW_12_Left_27 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_11_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XPHY_EDGE_ROW_0_Left_15 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_63_ _83_/Q _63_/A2 _63_/B _80_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
X_80_ _80_/D _88_/RN _38_/I _80_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
X_46_ _84_/D _50_/A3 _51_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
Xclkbuf_0_clk_in clk_in clkbuf_0_clk_in/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
XTAP_TAPCELL_ROW_5_37 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_6_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_103 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_62_ _83_/Q _64_/A1 _56_/Z _63_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand3_1
X_45_ _45_/A1 _83_/D _85_/Q _50_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__aoi21_1
XFILLER_11_4 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_10_91 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_61_ _80_/Q _54_/Z _63_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
X_44_ _85_/Q _86_/Q _87_/Q _84_/Q _83_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_0_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_1_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_60_ _38_/I _82_/Q _81_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XPHY_EDGE_ROW_4_Left_19 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_43_ _88_/Q _38_/I _82_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_1
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_7_Left_22 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_13_60 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_42_ _42_/A1 _42_/A2 _84_/Q _84_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__aoi21_1
XTAP_TAPCELL_ROW_0_30 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_7_62 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_13_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
X_41_ _85_/Q _86_/Q _87_/Q _42_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XTAP_TAPCELL_ROW_0_31 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_8_102 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_40_ _40_/I _48_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XTAP_TAPCELL_ROW_9_41 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_0_32 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_4_20 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xclkbuf_1_0__f_clk_in clkbuf_0_clk_in/Z _81_/CLK VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_16
XPHY_EDGE_ROW_5_Right_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_7_97 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_4_98 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XPHY_EDGE_ROW_11_Left_26 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_10_42 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_11_Right_11 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_4_33 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_12_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_13_10 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xfanout11 _81_/Q _38_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_2
Xinput1 div_ctrl[0] _71_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XPHY_EDGE_ROW_9_Right_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_3_35 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xfanout12 _87_/RN _88_/RN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
X_79_ _79_/D _88_/RN _38_/I _79_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
Xinput2 div_ctrl[1] _71_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_10_89 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_7_46 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_12_103 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_4_25 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XTAP_TAPCELL_ROW_13_45 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_3_Left_18 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_78_ _78_/D _88_/RN _38_/I _78_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
Xinput3 div_ctrl[2] _71_/B VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_6_Left_21 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_13_68 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xinput4 div_ctrl[3] _64_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_77_ _77_/D _88_/RN _38_/I _77_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_14_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_13_14 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_76_ _55_/Z _76_/A2 _79_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_1
Xinput5 div_ctrl[4] _42_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_10_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XTAP_TAPCELL_ROW_6_38 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_11_80 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_59_ _55_/Z _59_/A2 _88_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_1
XFILLER_4_102 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XPHY_EDGE_ROW_14_Right_14 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_4_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
X_58_ _83_/Q _58_/A2 _59_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
Xinput6 div_ctrl[5] _45_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_75_ _75_/A1 _72_/Z _74_/Z _83_/Q _76_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai22_1
XPHY_EDGE_ROW_4_Right_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_4_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_14_70 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
X_74_ _54_/Z _74_/A2 _74_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_1
Xinput7 div_ctrl[6] _40_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_5_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XPHY_EDGE_ROW_10_Left_25 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_57_ _64_/A1 _56_/Z _58_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XFILLER_7_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_13_28 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
X_73_ _78_/Q _77_/Q _79_/Q _74_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
XFILLER_10_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_56_ _71_/A1 _71_/A2 _71_/B _56_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or3_1
Xinput8 div_ctrl[7] _52_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_39_ _86_/Q _50_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
Xinput9 rst_n _87_/RN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_72_ _56_/Z _72_/A2 _72_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_1
XFILLER_11_51 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XPHY_EDGE_ROW_10_Right_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
X_55_ _80_/Q _83_/Q _54_/Z _55_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or3_1
XFILLER_8_63 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_38_ _38_/I _38_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XFILLER_7_103 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_8_Right_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_54_ _78_/Q _77_/Q _79_/Q _54_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or3_1
X_71_ _71_/A1 _71_/A2 _71_/B _72_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai21_1
XPHY_EDGE_ROW_14_Left_29 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_70_ _55_/Z _70_/A2 _78_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__and2_1
XTAP_TAPCELL_ROW_1_33 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_53_ _53_/A1 _53_/A2 _87_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__xor2_1
XFILLER_2_33 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XPHY_EDGE_ROW_2_Left_17 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_99 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_8_98 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XPHY_EDGE_ROW_5_Left_20 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_8_32 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_52_ _52_/A1 _83_/D _87_/Q _53_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__aoi21_1
XTAP_TAPCELL_ROW_11_43 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_0_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_11_99 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_51_ _51_/A1 _49_/Z _86_/D VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__xor2_1
XFILLER_11_103 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_8_34 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_11_67 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_50_ _50_/A1 _84_/D _50_/A3 _48_/Z _53_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand4_1
XPHY_EDGE_ROW_9_Left_24 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_4_36 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_8_47 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XFILLER_0_70 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XTAP_TAPCELL_ROW_14_46 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_13_Right_13 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_11_69 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_9_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XTAP_TAPCELL_ROW_14_47 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_14_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_32
XFILLER_9_92 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_14_48 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_7_Right_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_7_39 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_13_Left_28 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XPHY_EDGE_ROW_1_Left_16 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_88_ _88_/D _88_/RN _38_/I _88_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_7_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_9_61 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_8_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_12_61 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_87_ _87_/D _87_/RN _81_/Q _87_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XTAP_TAPCELL_ROW_8_40 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_6_103 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_86_ _86_/D _87_/RN _81_/Q _86_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_10_100 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_69_ _83_/Q _67_/Z _68_/Z _75_/A1 _70_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__oai22_1
XFILLER_6_31 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_85_ _85_/D _88_/RN _38_/I _85_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_9_53 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XPHY_EDGE_ROW_8_Left_23 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_68_ _71_/A1 _71_/A2 _68_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__xor2_1
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_9_103 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_84_ _84_/D _88_/RN _81_/Q _84_/Q VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dffrnq_1
XFILLER_12_97 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_67_ _78_/Q _77_/Q _67_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__xor2_1
XFILLER_13_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XTAP_TAPCELL_ROW_2_34 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_6_99 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
.ends

